US07417047B2
Preparation of 2-Amino-5-[1-ethyl-5-(hydroxymethyl)-1H-pyrrol-3-yl]-5-[3-(2-fluoropyridin-3-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one
A solution of 4-{2-amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-ethyl-1H-pyrrole-2-carbaldehyde (0.071 g; 0.25 mmol) in THF (20 mL) and methanol (5 mL) was stirred at ambient temperature as an excess of NaBH4 (0.071 g; 1.88 mmol) was added. After one hour the solvents were evaporated and the residue was taken up into dichloromethane and washed with water. The dichloromethane phase was dried over MgSO4, filtered, and evaporated. The resultant residue was crystallized from ethyl acetate and hexane to obtain the title product as a white solid, mp 170-172° C.; MS (ES) m/z 406.1; [M−H]−

reactant | 4-{2-amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-ethyl-1H-pyrrole-2-carbaldehyde | 0.25 mmol, 0.071 g | NC=1N(C(C(N1)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C=1C=C(N(C1)CC)C=O)=O)C | C22H20FN5O2
reactant | NaBH4 | 1.88 mmol, 0.071 g | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 2-Amino-5-[1-ethyl-5-(hydroxymethyl)-1H-pyrrol-3-yl]-5-[3-(2-fluoropyridin-3-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C1=CN(C(=C1)CO)CC | C22H22FN5O2
